US08754114B2
Step 1: N-methyl-N′-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea
Methyl amine (2.0 M in THF) was added to a solution of 2-(3-isocyanatophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.49 g, 2.0 mmol) and in tetrahydrofuran (6.0 mL) at 0° C. The mixture was stirred at this temperature for 5 min, then at r.t. for 2 h. The mixture was diluted with ethyl acetate, washed with water, 1N HCl aq. and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to provide the desired product which was directly used in next step without further purification. LCMS (M+H)+: m/z=277.1

reactant | Methyl amine | 2.0 M | CN | CH5N
reactant | 2-(3-isocyanatophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.0 mmol, 0.49 g | N(=C=O)C=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C | C13H16BNO3
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methyl-N′-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | CNC(=O)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
